reaction_geognn/datasets/wb97xd3/splits/fold_0/aam_train.csv
AAM,ea
[C:1]([N+:2]([C:3]1=[C:7]=[C:6]([H:13])[N:5]([H:12])[N-:4]1)([H:11])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],8.9207040986403
[O:1]=[C:2]([C:3]([O:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[C-:5]#[O+:6].[H:9][H:10].[O:1]=[C:2]([C:3](=[O:4])[H:8])[H:7],73.97525394195429
[C:1]([H:5])([H:6])([H:7])[H:9].[C:2](=[C:3]=[O:4])([H:8])[H:10]>>[C:1]([C:2]([C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],74.5632390381922
[C:5](=[C:6]=[C:7]([H:9])[H:14])([H:12])[H:13].[O:1]=[C:2]([N:3]=[C:4]([H:10])[H:11])[H:8]>>[O:1]=[C:2]([N:3]([C:4]([C:5]([C:6]#[C:7][H:14])([H:12])[H:13])([H:10])[H:11])[H:9])[H:8],27.79558181845869
[C:1](/[C:2](=[C:3](/[C:4]([H:12])([H:13])[H:14])[O:6][H:18])[H:11])([H:7])([H:8])[H:9].[C:5]([H:10])([H:15])([H:16])[H:17]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],92.01944845464139
[O:1]=[C:2]1[C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C@@:5]2([H:12])[C:6]([H:13])([H:14])[C@@:7]12[H:15]>>[O:1]1[C@:2]2([C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[C@@:5]1([H:12])[C:6]([H:13])([H:14])[C@@:7]21[H:15],134.378259872319
[C:1]([H:8])([H:9])([H:10])[H:14].[C:2]([C:3](=[O:4])[H:13])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])([H:11])[H:12]>>[C:1]([C:2]([C@@:3]([O:4][H:14])([C@@:5]([C:6]([H:16])([H:17])[H:18])([O:7][H:19])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],92.76685438599445
[O:1]([C:2]([C@@:3]1([H:10])[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]1)([H:8])[H:9])[H:7]>>[O:1]=[C:2]([C:3]([C:4]([C:5]([O:6][H:7])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8],56.9899892552491
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[C:2](=[C:3]1[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10].[O:1]([H:8])[H:11],70.3844909653932
[O:1]([C:2]([C:3](=[O:4])[C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([O:4][C:3](=[C:2]([H:8])[H:9])[C:5]([O:6][H:12])([H:10])[H:11])[H:7],127.339457327398
[N:1]([C:2](=[O:3])[N:4]([C:5]([C:6]([O:7][H:15])([H:13])[H:14])([H:11])[H:12])[H:10])([H:8])[H:9]>>[C:6](=[O:7])([H:13])[H:14].[N:1]([C@:2]([O:3][H:15])([N:4]=[C:5]([H:11])[H:12])[H:10])([H:8])[H:9],115.71288959536601
[C:1](/[C:2](=[N:3]/[C:4]([C:5]#[N:6])([H:13])[H:14])[H:10])([H:7])([H:8])[H:11].[H:9][H:12]>>[C:1]([C:2]([N:3]([C:4]([C:5]#[N:6])([H:13])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],85.05171224176249
[N+:1]([C:2]([O-:3])=[C:4]([O:5][H:10])[H:9])([H:6])([H:7])[H:8]>>[N:1]([C:2](=[O:3])[C:4]([O:5][H:10])([H:8])[H:9])([H:6])[H:7],34.1821889851624
[C:1](/[C:2]([O:3][H:12])=[C:4](/[O:5][C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C@@:4]([O:5][H:12])([C:6](=[O:7])[H:13])[H:11])([H:8])([H:9])[H:10],43.3436621526223
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[O:6]2>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:4]([H:11])([H:12])[H:14])[O+:6]=[C-:5][H:13],84.3127690860132
[C:1]([O:4]/[C:3](=[N:2]/[H:11])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],57.238999836106004
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:4][H:13])([H:7])([H:8])[H:9].[C:2](=[C:3]([C:5]([O:6][H:16])([H:14])[H:15])[H:12])([H:10])[H:11],114.030952386573
[O:1]([C:2]([C:3]([O:4][C:5](=[O:6])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:5](=[O:6])([H:10])[H:12].[O:1]([C:2]([C:3](=[O:4])[H:11])([H:8])[H:9])[H:7],74.94232106364329
[O:1]=[C:2]([C:3]#[C:4][H:7])[C:5]#[C:6][H:8]>>[O:1]=[C:2]=[C:3]=[C:4]([C:5]#[C:6][H:8])[H:7],78.518527295008
[C:1](/[C:2](=[N:3]\[O:4][H:10])[C:5]#[C:6][H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([N:3]=[O:4])[C:5]#[C:6][H:11])([H:7])[H:8].[H:9][H:10],75.01374396480699
[C:1]([C:5](=[O:6])[H:11])([H:7])([H:8])[H:9].[C:2](=[N:3][H:10])=[O:4]>>[C:1](/[C:2](=[N:3]/[H:10])[O:4][C:5](=[O:6])[H:11])([H:7])([H:8])[H:9],88.37436886949494
[C-:1]([O+:2]=[C:3]([C:4]([H:11])([H:12])[H:13])[H:10])([H:7])[H:9].[C:5](#[N:6])[H:8]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],0.09933760233811029
[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:5]/[C:4](=[C:2](/[O:3][H:11])[H:10])[N:6]([H:12])[H:13])([H:7])([H:8])[H:9],104.022605355981
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1](=[C:2](\[N:3]=[N:4]/[H:9])[C:7](=[C:6]=[O:5])[H:10])\[H:8],71.4376200049105
[O:1]([C@@:2]([C:4](=[C:3]([H:9])[H:10])[H:11])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],88.57758435691011
